US07557212B2
Step 1: (2-Acetyl-4-methoxy-phenoxy)-acetic Acid Ethyl Ester
A mixture of 16.6 g (100.0 mmol) of 2-hydroxi-5-methoxyacetophenone, 20 g (208 mmol) of potassium carbonate, 16.7 g (100.0 mmol) of ethyl bromoacetate and 200 ml of MEK is stirred at reflux temperature for 10 hr. The solids are filtered and the filtrate concentrated. The residue is suspended in water and the solid is filtered and dried. Yield: 10.2 g (40%).

reactant | 2-hydroxi-5-methoxyacetophenone | 100.0 mmol, 16.6 g | CC(=O)C1=C(C=CC(=C1)OC)O | C9H10O3
reactant | potassium carbonate | 208 mmol, 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 100.0 mmol, 16.7 g | BrCC(=O)OCC | C4H7BrO2
solvent | MEK | 200 ml | CCC(=O)C | C4H8O
product | (2-Acetyl-4-methoxy-phenoxy)-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)OC)C(C)=O)=O | C13H16O5
